### PR TITLE
feat: add Noncototient conjecture and related theorem

### PR DESCRIPTION
**Pull request by Brian-Nugent**
This is issue #2249

### CODE REVIEW

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 1]
```diff
@@ -0,0 +1,39 @@
...
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Conjectures about Nonvototient Numbers
```
Comment (franzhusch) [inline FormalConjectures/Wikipedia/Noncototient.lean]:
```suggestion
# Conjectures about Noncototient Numbers
```

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+
+Unless required by applicable law or agreed to in writing, software
+distributed under the License is distributed on an "AS IS" BASIS,
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
```
Comment (franzhusch) [inline FormalConjectures/Wikipedia/Noncototient.lean:18]: Can you add a custom namespace like Cototient

**Review by franzhusch — COMMENTED** [review]
LGTM, just some minor comments :), thanks for the Contribution.

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 3]
```diff
@@ -0,0 +1,39 @@
...
+/-!
+# Conjectures about Noncototient Numbers
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Noncototient)
+-/
+
+namespace Noncototient
+/--
+A number n is a Noncototient if the equation n = k - φ(k) has no solution where φ is Eulers totient
+function.
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:28]:
```suggestion
A number $n$ is a Noncototient if the equation $n = k - \phi(k)$ has no solution where $\phi$ is Euler's totient
function.
```

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 4]
```diff
@@ -0,0 +1,39 @@
...
+-/
+def Noncototient (n : ℕ) : Prop := ¬∃ k : ℕ, n = k - (Nat.totient k)
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:30]:
```suggestion
def IsNoncototient (n : ℕ) : Prop := ¬∃ k : ℕ, n = k - (Nat.totient k)
```

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 5]
```diff
@@ -0,0 +1,39 @@
...
+
+/--
+All Noncototients are even.
+-/
+@[category research open, AMS 11]
+theorem Noncototient_even (n : ℕ) (h : Noncototient n) : Even n := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:36]:
```suggestion
theorem Noncototient_even (n : ℕ) (h : IsNoncototient n) : Even n := by
```

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 6]
```diff
@@ -0,0 +1,39 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Conjectures about Noncototient Numbers
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/Noncototient)
+-/
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:24]:
```suggestion

open scoped Nat

```
This allows you to use $\phi$ notation below

File: FormalConjectures/Wikipedia/Noncototient.lean (hunk 4 above)
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:30]:
```suggestion
def Noncototient (n : ℕ) : Prop := ¬ ∃ k, n = k - φ k
```

File: FormalConjectures/Wikipedia/Noncototient.lean [hunk 7]
```diff
@@ -0,0 +1,39 @@
...
+namespace Noncototient
+/--
+A number n is a Noncototient if the equation n = k - φ(k) has no solution where φ is Eulers totient
+function.
+-/
+def Noncototient (n : ℕ) : Prop := ¬∃ k : ℕ, n = k - (Nat.totient k)
+
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Noncototient.lean:31]:
```suggestion

theorem isNoncototient_not_small (n : ℕ) (hn : n < 10) : ¬ IsNoncototient n := by
  sorry

theorem isNoncototient_ten : IsNoncototient 10 := by
  sorry

```
Let's add some test statements for the definition! No need to fill in the proofs here unless you want, they should be easy.

**Review by mo271 — COMMENTED** [review]
Thanks!
Mathematically correct, just a few suggestions!

**Comment by mo271** [comment]
@Brian-Nugent please click "Resolve conversation" for those conversations that are resolved (like the namespace suggestion.

Also make sure that the CLA bot is happy...

**Comment by mo271** [comment]
@Brian-Nugent 
Would be great to get this merged, because it looks like a good contribution!
Could you consider re-opening?
